US05407451
Synthesis of 1,2-dihydroxypropane octyl sulfide
Approximately 40 g of 50% aqueous sodium hydroxide solution was added dropwise over a period of 1 hour to a solution of n-octyl mercaptan (72.3 g) and 1-chloropropane-2,3-diol (55 g) in isopropanol solvent (400 cc) at ambient temperature. The reaction temperature rose from 23° to 55° C. during addition. The reaction was refluxed for 3 hours at 80° C. and then filtered hot through paper to remove the precipitated salts. The isopropanol solvent was removed by distillation. The product residue was dissolved in 700 cc of toluene and washed with water several times. The toluene solution was dried over magnesium sulfate and filtered through diatomaceous earth. Toluene was removed by high speed rotary evaporation under reduced pressure to yield a colorless, opaque fluid.

reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | n-octyl mercaptan | 72.3 g | C(CCCCCCC)S | C8H18S
reactant | 1-chloropropane-2,3-diol | 55 g | ClCC(CO)O | C3H7ClO2
solvent | isopropanol | 400 cc | C(C)(C)O | C3H8O
product | 1,2-dihydroxypropane octyl sulfide | C(CCCCCCC)SCCCCCCCC.OCC(C)O | InChI=1S/C16H34S.C3H8O2/c1-3-5-7-9-11-13-15-17-16-14-12-10-8-6-4-2;1-3(5)2-4/h3-16H2,1-2H3;3-5H,2H2,1H3
